US06340759B1
The resulting 3-[4-(3-methoxypropyl)phenyl]isoquinolin-1-one (1.85 g) was reacted with phosphorus oxychloride (20 ml) according to the method of Example 10-2, to give 1-chloro-3-[4-(3-methoxypropyl)phenyl]isoquinoline. The resulting compound was reacted, as it was, with N-ethylpiperazine (6 ml) at 100° C. overnight. The reaction solution was evaporated, and to the resulting residue were added ethyl acetate and purified water. The resulting ethyl acetate layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (chloroform/methanol system), to give 0.63 g of the free compound of the title compound as a pale yellow oil.

reactant | 3-[4-(3-methoxypropyl)phenyl]isoquinolin-1-one | 1.85 g | COCCCC1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O | C19H19NO2
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-3-[4-(3-methoxypropyl)phenyl]isoquinoline | ClC1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)CCCOC | C19H18ClNO
